US06630598B2
Production of N-t-butoxycarbonyl-N-methyl-5-methoxy-2-nitroaniline
13.10 g of sodium hydride (60% content) was suspended in 175.31 g of tetrahydrofuran and cooled with ice. To the obtained suspension, 227.53 g of a tetrahydrofuran solution containing 25.03 g of 5-methoxy-2-nitroaniline was added, stirred for 10 minutes, allowed to stand at room temperature and stirred for 30 minutes. To the obtained mixture, 35.73 g of di-t-butyl dicarbonate was added at room temperature and stirred for 3 hours. To the reaction mixture, 249.76 g of toluene and 28.74 g of dimethyl sulfate were added at room temperature and stirred for 2 hours. The reaction mixture was added to ice water and extracted with toluene to separate an organic layer and then the organic layer was analyzed by high performance liquid chromatography to find the yield of the desired product was 94%.

reactant | sodium hydride | 13.10 g | [H-].[Na+]
reactant | 5-methoxy-2-nitroaniline | 25.03 g | COC=1C=CC(=C(N)C1)[N+](=O)[O-] | C7H8N2O3
reactant | di-t-butyl dicarbonate | 35.73 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | dimethyl sulfate | 28.74 g | S(=O)(=O)(OC)OC | C2H6O4S
solvent | tetrahydrofuran | 175.31 g | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 227.53 g | O1CCCC1 | C4H8O
solvent | toluene | 249.76 g | C1(=CC=CC=C1)C | C7H8
product | N-t-butoxycarbonyl-N-methyl-5-methoxy-2-nitroaniline | C(C)(C)(C)OC(=O)N(C1=C(C=CC(=C1)OC)[N+](=O)[O-])C | C13H18N2O5
